US08748613B2
Preparation of ethyl 2-phenyl-2-(piperidin-1-yl)acetate (I1)
DIPEA (0.86 ml, 4.94 mmol) and piperidine (0.49 ml, 4.94 mmol) were sequentially added to a solution of ethyl 2-bromo-2-phenylacetate (0.72 ml, 4.11 mmol) in acetonitrile (13 ml). The pale yellow solution was stirred at room temperature monitoring by TLC (petroleum ether/EtOAc=9/1). After 1.5 hours complete conversion into the desired product was detected. Solvent was evaporated and the residue (pale yellow solid) was triturated with Et20 (30 ml). The solid was filtered off and the ethereal solution was evaporated to dryness. The residue was purified by flash chromatography (petroleum ether/EtOAc=95/5) to collect ethyl 2-phenyl-2-(piperidin-1-yl)acetate (990 mg, 97% yield) as a colorless oil.

reactant | DIPEA | 4.94 mmol, 0.86 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | piperidine | 4.94 mmol, 0.49 ml | N1CCCCC1 | C5H11N
reactant | ethyl 2-bromo-2-phenylacetate | 4.11 mmol, 0.72 ml | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
solvent | acetonitrile | 13 ml | C(C)#N | C2H3N
product | ethyl 2-phenyl-2-(piperidin-1-yl)acetate | C1(=CC=CC=C1)C(C(=O)OCC)N1CCCCC1 | C15H21NO2
